US07767665B2
2-[2-(N-Benzyl-N-methylamino)-4-pyridyl]-4H-1,3-benzothiazine-4-one
Methyl thiosalicylate (0.70 g, 4.2 mmol) and 2-[N-benzyl-N-methylamino]isonicotinonitrile (0.46 g, 2.1 mmol) were dissolved in toluene (2.0 ml), and triethylamine (0.68 ml, 4.9 mmol) was added thereto. The reaction mixture was refluxed for 8 hrs, subjected to silica gel (50 g) column chromatography, eluted with hexane-ethyl-acetate (2:1, v/v) and recrystallized from ethanol to give the titled compound (0.23 g, 15%).

reactant | Methyl thiosalicylate | 4.2 mmol, 0.70 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-[N-benzyl-N-methylamino]isonicotinonitrile | 2.1 mmol, 0.46 g | C(C1=CC=CC=C1)N(C)C=1C=C(C#N)C=CN1 | C14H13N3
reactant | triethylamine | 4.9 mmol, 0.68 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(N-Benzyl-N-methylamino)-4-pyridyl]-4H-1,3-benzothiazine-4-one | 0.23 g, 15% | C(C1=CC=CC=C1)N(C)C1=NC=CC(=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C21H17N3OS
